US06291450B1
Preparation of 1-(4-Methoxy-benzenesulfonyl)-3-(4-methoxy-benzyloxycarbonyl-amino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester
The reaction is performed under an Argon atmosphere and exclusion of light. 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester (550 mg, 1.34 mmol) is dissolved in 7 ml dry Tetrahydrofuran (THF). Tripropyl amine (TPA) (280 μl, 1.47 mmol) is added and the reaction is stirred for 30 minutes at RT. Diphenyl phosphoryl azide (318 μl, 1.47 mmol) is added and the reaction is gradually heated to 40° C. for 3 h. The reaction temperature is then increased to reflux conditions for 6 h. The reaction mixture is allowed to cool to room temperature and 4-Methoxybenzylalcohol (184 μl, 1.47 mmol) is added. The, reaction is heated to reflux over night. The solvent is evaporated. Flash-chromatography Hexane/Ethylacetate (2:1) afforded the product: Cal. 383.5 found (M)+ 383.0.

reactant | 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester | 1.34 mmol, 550 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H25NO7S
reactant | Tripropyl amine | 1.47 mmol, 280 μl | C(CC)N(CCC)CCC | C9H21N
reactant | Diphenyl phosphoryl azide | 1.47 mmol, 318 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-Methoxybenzylalcohol | 1.47 mmol, 184 μl | COC1=CC=C(CO)C=C1 | C8H10O2
solvent | Tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 1-(4-Methoxy-benzenesulfonyl)-3-(4-methoxy-benzyloxycarbonyl-amino)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1NC(=O)OCC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OC | C27H34N2O8S
